US09193935B2
22.1: 1-Methoxy-4-[(5E)-undeca-1,5-dien-1-yl]benzene
Starting from (4-methoxyphenyl)methyltriphenylphosphonium bromide (14.0 g, 30.2 mmol, 1.0 equiv.), KtBuO (34 mL, 34.0 mmol, 1.1 equiv., 1M in THF) and (E)-dec-4-enal (5.59 g, 36.3 mmol, 1.2 equiv.), 5.59 g (72%) of the title compound was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 99:1) as a light yellow oil.

reactant | (4-methoxyphenyl)methyltriphenylphosphonium bromide | 30.2 mmol, 14.0 g, 1.0 equiv. | [Br-].COC1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (E)-dec-4-enal | 36.3 mmol, 5.59 g, 1.2 equiv. | C(CC\C=C\CCCCC)=O | C10H18O
solvent | THF | C1CCOC1 | C4H8O
product | 1-Methoxy-4-[(5E)-undeca-1,5-dien-1-yl]benzene | 5.59 g, 72% | COC1=CC=C(C=C1)C=CCC\C=C\CCCCC | C18H26O
